US08476286B2
B. Synthesis of 1,1-bis-(4-methoxy-phenyl)-urea
A solution of 423 mg (1.85 mmol) bis-(4-methoxy-phenyl)-amine in 8 ml acetic acid is treated with 120 mg (1.85 mmol)sodium cyanate. After 4.5 h the reaction mixture is poured onto a solution of 8 g sodium hydroxide in 100 ml water. The resultant precipitate is filtered off and dried.

reactant | bis-(4-methoxy-phenyl)-amine | 1.85 mmol, 423 mg | COC1=CC=C(C=C1)NC1=CC=C(C=C1)OC | C14H15NO2
reactant | sodium cyanate | 1.85 mmol, 120 mg | [O-]C#N.[Na+]
reactant | sodium hydroxide | 8 g | [OH-].[Na+]
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | 1,1-bis-(4-methoxy-phenyl)-urea | COC1=CC=C(C=C1)N(C(=O)N)C1=CC=C(C=C1)OC | C15H16N2O3
